US04632934
In a 200 ml round-bottom flask is placed a solution of 8.0 g of p-(1-imidazolylmethyl)aniline prepared as described in Reference Example 3, and 30 ml of formic acid in 80 ml of toluene. The flask was fitted with a water separator, and the solution was refluxed for 4 hours. After concentration under reduced pressure, the residual solid was recrystallized from ethanol-diethyl ether to give 6.4 g of p-(1-imidazolylmethyl)-N-formylaniline as colorless prisms. M.P.: 121°-123° C. To a suspension of 0.48 g of 50% sodium hydride in 50 ml of dry dimethylformamide was added 2.01 g of the formylaniline and mixture was heated to 100° C. A solution of 1.81 g of ethyl α-bromopropionate in 30 ml of dry dimethylformamide was added to the mixture and the reaction mixture was heated at 100° C. for 16 hours. After removal of the solvent under reduced pressure, 50 ml of dichloromethane was added to the residue, and the solution was washed with water and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue was chromatographed on silica gel using dichloromethane-ethanol (20:1 by volume) to give 1.58 g of N-formyl-N-[p-(1-imidazolylmethyl)phenyl]alanine ethyl ester as a pale brown oil. Then, a solution of 1.58 g of the resulting ester and 5 ml of concentrated hydrochloric acid in 50 ml of ethanol was stirred for 40 hours at room temperature. After concentration under reduced pressure, the residual solid was recrystallized from ethanol-diethyl ether to give 1.18 g of N-[p-(1-imidazolylmethyl)phenyl]alanine ethyl ester dihydrochloride as pale yellow crystals. M.P.: 154°-159° C.

reactant | p-(1-imidazolylmethyl)aniline | 8.0 g | N1C(=NC=C1)CC1=CC=C(N)C=C1 | C10H11N3
reactant | formic acid | 30 ml | C(=O)O | CH2O2
reactant | water | O | H2O
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | p-(1-imidazolylmethyl)-N-formylaniline | 6.4 g | N1C(=NC=C1)CC1=CC=C(NC=O)C=C1 | C11H11N3O
